US08242280B2
A suspension of (3-bromo-phenyl)-oxo-acetic acid ethyl ester (2.0 g, 7.8 mmol), dimethylamine (19.5 mL, 2 N in THF, 39 mmol), and sodium triacetoxyborohydride (4.95 g, 23.4 mmol) in 1,2-dichloroethane (40 mL) was stirred at room temperature for 36 hours. Satuated sodium bicarbonate (50 mL) was added and the resulting mixture was extracted with ethyl acetate. The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography on silica gel using a gradient of methanol in dichloromethane to afford (3-bromo-phenyl)-dimethylamino-acetic acid ethyl ester (350 mg, 16%) as an oil. MS: m/z 286 (M+H+).

reactant | (3-bromo-phenyl)-oxo-acetic acid ethyl ester | 7.8 mmol, 2.0 g | C(C)OC(C(=O)C1=CC(=CC=C1)Br)=O | C10H9BrO3
reactant | dimethylamine | 39 mmol, 2 N, 19.5 mL | CNC | C2H7N
reactant | sodium triacetoxyborohydride | 23.4 mmol, 4.95 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
product | (3-bromo-phenyl)-dimethylamino-acetic acid ethyl ester | 350 mg, 16% | C(C)OC(C(N(C)C)C1=CC(=CC=C1)Br)=O | C12H16BrNO2
